US05449677
A solution of 3-[[1-[2-(1-methylethoxy)phenyl]-4-piperidinyl]methyl]benzyl chloride (5.25 g, 0.0147 mol) in THF (90 mL) was added dropwise to a solution of γ-valerolactam (2.06 g, 0.02 mol) in THF (50 mL) which had been treated at 0° C. with 1.6M n-BuLi/hexane (12 mL, 1 mol equiv). The resulting solution was heated to reflux for 3 h, cooled, and quenched with MeOH (20 mL). The solution was evaporated to dryness to give a yellow oil. The residue was chromatographed on silica gel using 99:1/CHCl3 :MeOH as eluant to give 1-[[3-[[1-[2-(1-methylethoxy)phenyl]-4-piperidinyl]methyl]phenyl]methyl]-piperidin-2-one as a light yellow oil, 1.41 g (23%). MS (Cl CH4): m/e 421 (MH+). 1H NMR (CDCl3): δ1.3 (d, 6H), 1.8 (m, 4H), 2.0 (m, 2H), 2.4 (s, 1H), 2.9 (m, 3H), 3.2 (m, 2H), 3.6 (s, 1H), 3.7 (d, 1H), 4.6 (m, 3H), 5.0 (s, 1H), 6.9 (m, 2H), 7.1 (m, 2H), 7.3-7.6 (m, 4H).

reactant | 3-[[1-[2-(1-methylethoxy)phenyl]-4-piperidinyl]methyl]benzyl chloride | 0.0147 mol, 5.25 g | CC(C)OC1=C(C=CC=C1)N1CCC(CC1)CC=1C=C(CCl)C=CC1 | C22H28ClNO
reactant | γ-valerolactam | 0.02 mol, 2.06 g | C1(CCC(C)N1)=O | C5H9NO
reactant | n-BuLi hexane | 1 mol, 1.6M, 12 mL | [Li]CCCC.CCCCCC
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-[[3-[[1-[2-(1-methylethoxy)phenyl]-4-piperidinyl]methyl]phenyl]methyl]-piperidin-2-one | CC(C)OC1=C(C=CC=C1)N1CCC(CC1)CC=1C=C(C=CC1)CN1C(CCCC1)=O | C27H36N2O2
